US06730707B2
N-[2-(5-Nitro-1H-indol-3-yl)-ethyl]-acetamide
5-Nitrotryptamine (6 mmol) is dissolved in pyridine (15 ml) and treated with acetic anhydride (7 mmol) 20 min at 27° C. The solvents are removed in vacuo, the residue taken into a small amount of methanol and passed through a short plug of silica with 5% methanol-chloroform eluent. Product-containing fractions are pooled, evaporated and dried thoroughly at <0.1 mm Hg.

reactant | 5-Nitrotryptamine | 6 mmol | [N+](=O)([O-])C1=CC=C2NC=C(CCN)C2=C1 | C10H11N3O2
reactant | acetic anhydride | 7 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(5-Nitro-1H-indol-3-yl)-ethyl]-acetamide | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCNC(C)=O | C12H13N3O3
